US07544697B2
1-(3-Dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (5.68 g, 29.6 mmol) was added to a solution of 5-{2-[(tert-butoxycarbonyl)amino]-2-methylpropyl}-1-propyl-1H-pyrazole-3-carboxylic acid (8.77 g, 27.0 mmol) and 1-hydroxybenzotriazole (4.00 g, 29.6 mmol) in DMF (44 mL) at ambient temperature. The mixture was stirred for 5.5 hours until a solution formed, then was cooled in an ice bath. Concentrated ammonium hydroxide (5.5 mL) was added and the cloudy solution was stirred for 10 minutes, then was allowed to warm to ambient temperature and stir overnight. Water (150 mL) was added and the mixture was extracted with chloroform (4×75 mL). The organic layers were combined, dried over magnesium sulfate, filtered, and concentrated under reduced pressure. The residue was concentrated twice from xylene under reduced pressure to afford an oil that was purified on chromatography on a HORIZON HPFC system (silica gel, elution with ethyl acetate) to yield 8.21 g of tert-butyl 2-[3-(aminocarbonyl)-1-propyl-1H-pyrazol-5-yl]-1,1-dimethylethylcarbamate as a white solid.

reactant | 1-(3-Dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 29.6 mmol, 5.68 g | Cl.CN(CCCN=C=NCC)C
reactant | 5-{2-[(tert-butoxycarbonyl)amino]-2-methylpropyl}-1-propyl-1H-pyrazole-3-carboxylic acid | 27.0 mmol, 8.77 g | C(C)(C)(C)OC(=O)NC(CC1=CC(=NN1CCC)C(=O)O)(C)C | C16H27N3O4
reactant | 1-hydroxybenzotriazole | 29.6 mmol, 4.00 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | ammonium hydroxide | 5.5 mL | [OH-].[NH4+]
solvent | DMF | 44 mL | CN(C)C=O | C3H7NO
solvent | Water | 150 mL | O | H2O
product | tert-butyl 2-[3-(aminocarbonyl)-1-propyl-1H-pyrazol-5-yl]-1,1-dimethylethylcarbamate | 8.21 g | NC(=O)C1=NN(C(=C1)CC(C)(C)NC(OC(C)(C)C)=O)CCC | C16H28N4O3
